US07482346B2
5.2. 1-(3-biphenyl-3-yl-1,1-dimethylprop-2-yn-1-yl)-4-(2,2-dimethylpropanoyl)piperazine
1.05 g mmol) of 3g (3.6 mmol) of 1-(2,2-dimethylpropanoyl)-4-(1,1-dimethylprop-2-yn-1-yl)piperazine, prepared in step 5.1., 0.75 ml (5.38 mmol) of triethylamine and 0.028 g (0.11 mmol) of triphenylphosphine are dissolved in 8 ml of tetrahydrofuran. Under an argon atmosphere, 0.126 g (0.18 mmol) of the dichloride complex of bis(triphenylphosphine) palladium is added. The mixture is stirred for 15 minutes and then 0.014 g (0.07 mmol) of cuprous iodide is added. The mixture is stirred at ambient temperature for 4 hours and then at 60° C. overnight. After cooling to temperature it is diluted with 25 ml of ethyl acetate and filtered on paper. The solid is rinsed with 4 times 10 ml of ethyl acetate. 4 g of silica are added to the filtrate, which is evaporated to dryness. The residue is purified by chromatography on silica gel, eluting with a 90/10 then 80/20 and 70/30 mixture of cyclohexane and ethyl acetate, to give 0.90 g (2.22 mmol) of product in the form of a orange-colored oil.

reactant | 1-(2,2-dimethylpropanoyl)-4-(1,1-dimethylprop-2-yn-1-yl)piperazine | CC(C(=O)N1CCN(CC1)C(C#C)(C)C)(C)C | C14H24N2O
reactant | triethylamine | 5.38 mmol, 0.75 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.11 mmol, 0.028 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine) palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-(3-biphenyl-3-yl-1,1-dimethylprop-2-yn-1-yl)-4-(2,2-dimethylpropanoyl)piperazine | 2.22 mmol, 0.90 g | C1(=CC(=CC=C1)C#CC(C)(C)N1CCN(CC1)C(C(C)(C)C)=O)C1=CC=CC=C1 | C26H32N2O
